US07534894B2
Step 4: {[3-bromo-4′-({[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}methyl)-[1,1′-biphenyl]-4-yl]oxy}acetic acid.
Methyl{[3-bromo-4′-({[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}methyl)[1,1′-biphenyl]-4-yl]oxy}acetate (314 mg, 0.57 mmol), prepared in the previous step, in 100 mL of methanol and 10 mL of water was warmed to dissolve the solid. While still warm 1 N NaOH (684 μL, 0.68 mmol) was added and the mixture stirred, with no additional heat, until the reaction was complete by TLC. The reaction was acidified by the addition of 715 μL of 1 N HCl and then concentrated under reduced pressure to remove the methanol. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound as a light tan solid (270 mg, 87%), mp 175-190° C. Elemental Analysis for C28H26BrNO5.0.40 H2O. Calc'd: C, 61.87; H, 4.97; N, 2.58. Found: C, 61.35; H, 4.54; N, 2.51.

reactant | Methyl{[3-bromo-4′-({[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}methyl)[1,1′-biphenyl]-4-yl]oxy}acetate | 0.57 mmol, 314 mg | COC(COC1=C(C=C(C=C1)C1=CC=C(C=C1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC)Br)=O | C29H28BrNO5
reactant | water | 10 mL | O | H2O
reactant | NaOH | 0.68 mmol, 1 N, 684 μL | [OH-].[Na+]
reactant | HCl | 1 N, 715 μL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | {[3-bromo-4′-({[(2-butyl-1-benzofuran-3-yl)carbonyl]amino}methyl)-[1,1′-biphenyl]-4-yl]oxy}acetic acid | 270 mg, 87% | BrC=1C=C(C=CC1OCC(=O)O)C1=CC=C(C=C1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C28H26BrNO5
